US09290440B2
2,3-Dihydro-3-oxobenzofuran-6-yl trifluoromethanesulfonate
2,3-Dihydro-6-hydroxy-3-oxobenzofuran (2.00 g) was dissolved in dichloromethane (22 mL), added with pyridine (5.39 mL), and added dropwise with trifluoromethanesulfonic anhydride (2.69 mL) under ice cooling. After stirring at the same temperature for 2 hours, the solvent was evaporated under reduced pressure. The residues were diluted with ethyl acetate, washed with water and saturated brine in order, and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residues were purified by silica gel column chromatography (5 to 20% ethyl acetate/hexane), suspended in a mixture solution of hexane/diisopropyl ether, and collected by filtration to obtain the title compound (1.84 g) as a yellow powder.

reactant | 2,3-Dihydro-6-hydroxy-3-oxobenzofuran | 2.00 g | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
reactant | pyridine | 5.39 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.69 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 2,3-Dihydro-3-oxobenzofuran-6-yl trifluoromethanesulfonate | 1.84 g | FC(S(=O)(=O)OC1=CC2=C(C(CO2)=O)C=C1)(F)F | C9H5F3O5S
